### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): The codimension of a point of a scheme is equal to the krull dimension of the stalk

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR we show that the codimension of a point in a scheme is equal to the krull dimension of the local ring at that point, as in stacks 02IZ. 

---
- [x] depends on: #26204 [For the notion of codimension, here we are using the coheight in the specialization order. ]
- [x] depends on: #26225 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 1]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
   top := genericPoint X
   le_top a := genericPoint_specializes a
 
+open IrreducibleCloseds Set in
+@[stacks 02I4]
+lemma coheight_eq_of_openImmersion {U X : Scheme} {Z : U} (f : U ⟶ X)
+  [k : IsOpenImmersion f] : Order.coheight (f.base Z) = Order.coheight Z := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
lemma coheight_eq_of_isOpenImmersion {U X : Scheme} {Z : U} (f : U ⟶ X)
    [k : IsOpenImmersion f] : Order.coheight (f.base Z) = Order.coheight Z := by
```
Please indent additional lines in statements by 4 spaces (also elsewhere in this PR), so there is a visual separation between proof body and statement (for more details see https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems).

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 2]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
...
+  rw [← Order.coheight_orderIso (irreducibleSetEquivPoints (α := X)).symm (f.base Z),
+      ← Order.coheight_orderIso (irreducibleSetEquivPoints (α := U)).symm Z,
+      ← Order.coheight_orderIso
+      (map'OrderIso f.base (Scheme.Hom.continuous f) k.base_open)
+      ((irreducibleSetEquivPoints (α := U)).symm Z)]
+  let g : {V : IrreducibleCloseds X | ⇑(ConcreteCategory.hom f.base) ⁻¹' ↑V ≠ ∅} ↪o
+      IrreducibleCloseds X :=
+    OrderEmbedding.subtype {V : IrreducibleCloseds X | ⇑(ConcreteCategory.hom f.base) ⁻¹' V ≠ ∅}
+  let a := (map'OrderIso f.base (Scheme.Hom.continuous f) k.base_open)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
  let a := (map'OrderIso f.base (Scheme.Hom.continuous f) f.isOpenEmbedding)
```
(and below). Then you can remove the name from `[k : ...]`. We generally try to avoid naming instance arguments if possible.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 3]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
   top := genericPoint X
   le_top a := genericPoint_specializes a
 
+open IrreducibleCloseds Set in
+@[stacks 02I4]
+lemma coheight_eq_of_openImmersion {U X : Scheme} {Z : U} (f : U ⟶ X)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]: Is there a reason why you are denoting an element of `U` by a capital `Z`? I find this quite confusing.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 4]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
...
+  [k : IsOpenImmersion f] : Order.coheight (f.base Z) = Order.coheight Z := by
+  rw [← Order.coheight_orderIso (irreducibleSetEquivPoints (α := X)).symm (f.base Z),
+      ← Order.coheight_orderIso (irreducibleSetEquivPoints (α := U)).symm Z,
+      ← Order.coheight_orderIso
+      (map'OrderIso f.base (Scheme.Hom.continuous f) k.base_open)
+      ((irreducibleSetEquivPoints (α := U)).symm Z)]
+  let g : {V : IrreducibleCloseds X | ⇑(ConcreteCategory.hom f.base) ⁻¹' ↑V ≠ ∅} ↪o
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]: I think you should first be proving [02I4](https://stacks.math.columbia.edu/tag/02I4) for topological spaces (in terms of `Topology.IsOpenEmbedding`), stating things in terms of `Order.coheight` and irreducible components. Then you will be done after these rewrites.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 5]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
...
+  ringKrullDim (X.presheaf.stalk Z) = Order.coheight Z := by
+  obtain ⟨R, f, hf⟩ := AlgebraicGeometry.Scheme.exists_affine_mem_range_and_range_subset
+    (U := ⊤) (x := Z) (by aesop)
+  obtain ⟨y, hy⟩ := Set.mem_range.mp hf.2.1
+  have := hf.1
+  have := hy ▸ AlgebraicGeometry.coheight_eq_of_openImmersion f (Z := y)
+  rw [this]
+  suffices ringKrullDim ((Spec R).presheaf.stalk y) = coheight y from
+    this ▸ Order.krullDim_eq_of_orderIso
+    (hy ▸ PrimeSpectrum.comapEquiv (asIso (Scheme.Hom.stalkMap f y)).commRingCatIsoToRingEquiv)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
  wlog h : ∃ R, X = Spec R
  · obtain ⟨R, f, hf, hsub⟩ := AlgebraicGeometry.Scheme.exists_affine_mem_range_and_range_subset
      (show Z ∈ ⊤ from trivial)
    obtain ⟨y, rfl⟩ := Set.mem_range.mp hsub.1
    rw [coheight_eq_of_openImmersion, ← this _ ⟨R, rfl⟩]
    exact Order.krullDim_eq_of_orderIso
      (PrimeSpectrum.comapEquiv (asIso (Scheme.Hom.stalkMap f y)).commRingCatIsoToRingEquiv)
  obtain ⟨R, rfl⟩ := h
```
I think this is more readable (Note: there is no `y` in the following proof anymore, so you need to replace `y` by `Z` again).

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Properties.lean]: Btw, I think `AlgebraicGeometry.Scheme.exists_affine_mem_range_and_range_subset` should take more arguments explicitly, they will almost never be found by unification.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 6]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
...
+  let k : Algebra ↑R ↑((Spec R).presheaf.stalk y) := StructureSheaf.stalkAlgebra (↑R) y
+  have : IsLocalization.AtPrime (↑((Spec R).presheaf.stalk y)) y.asIdeal :=
+    StructureSheaf.IsLocalization.to_stalk R y
+  rw [IsLocalization.AtPrime.ringKrullDim_eq_height y.asIdeal ((Spec R).presheaf.stalk y),
+     Ideal.height_eq_primeHeight y.asIdeal, Ideal.primeHeight]
+  apply WithBot.coe_eq_coe.mpr
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
  rw [IsLocalization.AtPrime.ringKrullDim_eq_height Z.asIdeal ((Spec R).presheaf.stalk Z),
    Ideal.height_eq_primeHeight Z.asIdeal, Ideal.primeHeight, WithBot.coe_inj]
```
Indentation should always be a multiple of 2.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 7]
```diff
@@ -301,4 +303,70 @@ instance [IsIntegral X] : OrderTop X where
...
+  congr
+  ext
+  simp only [PrimeSpectrum.instPartialOrder, PartialOrder.lift, PrimeSpectrum.le_iff_specializes,
+    OrderDual.instPreorder, OrderDual.instLE]
+  exact Eq.to_iff rfl
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]: Could you please make this a separate lemma? There is an instance diamond here (that we can't avoid, but we should have a lemma for it).

File: Mathlib/Topology/KrullDimension.lean [hunk 8]
```diff
@@ -62,3 +62,114 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+
+namespace IrreducibleCloseds
+
+variable {U X : Type*} [TopologicalSpace X] [TopologicalSpace U] (f : U → X) (h : Continuous f)
+
+/--
+Alternate definition of `map` not requiring the map to be closed, instead taking the closure of the
+image.
+-/
+def map' (T : IrreducibleCloseds U) : {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅} where
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: `map'` is an unfortunate name. Maybe `closureImage`?

File: Mathlib/Topology/KrullDimension.lean [hunk 9]
```diff
@@ -62,3 +62,114 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+
+
+namespace IrreducibleCloseds
+
+variable {U X : Type*} [TopologicalSpace X] [TopologicalSpace U] (f : U → X) (h : Continuous f)
+
+/--
+Alternate definition of `map` not requiring the map to be closed, instead taking the closure of the
+image.
+-/
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: Arguably, this is the correct `map` definition and the original one is not general enough. But maybe for def-eq reasons we need to have both.

File: Mathlib/Topology/KrullDimension.lean [hunk 10]
```diff
@@ -62,3 +62,114 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+def map' (T : IrreducibleCloseds U) : {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅} where
+  val := {
+    carrier := closure (f '' T.1)
+    is_irreducible' := IsIrreducible.closure <|
+      IsIrreducible.image T.is_irreducible' f (Continuous.continuousOn h)
+    is_closed' := isClosed_closure
+  }
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
  val.carrier := closure (f '' T.1)
  val.is_irreducible' := T.is_irreducible'.image f (Continuous.continuousOn h) |>.closure
  val.is_closed' := isClosed_closure
```

File: Mathlib/Topology/KrullDimension.lean [hunk 11]
```diff
@@ -62,3 +62,114 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+  StrictMono <| map' f h := Monotone.strictMono_of_injective
+   (map'_mono f h) (map'_injective_of_openEmbedding f h h2)
+
+/--
+Given `f : U → X` a continuous open embedding, the irreducble closeds of `U` are order isomorphic
+to the irreducible closeds of `X` nontrivially intersecting the range of `f`.
+-/
+noncomputable
+def map'OrderIso (h2 : IsOpenEmbedding f) :
+  IrreducibleCloseds U ≃o {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅} := by
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: I think this should be defined without `Equiv.ofBijective`, but by giving maps in both directions (you are constructing these anyways, they are your `map'` and `comap`).

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 3 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/Properties.lean]: This is mainly because I was thinking about these points as their associated integral closed subschemes and I found it easier when writing to use notation that reflected this, but I agree this should be changed

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 4 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/Properties.lean]: Ah, yes that's a good idea, thanks for that, I'll make that change

File: Mathlib/Topology/KrullDimension.lean (hunk 8 above)
Comment (Raph-DG) [reply Mathlib/Topology/KrullDimension.lean]: Yes I agree, I also think closureImage is a more appropriate name

File: Mathlib/Topology/KrullDimension.lean (hunk 9 above)
Comment (Raph-DG) [reply Mathlib/Topology/KrullDimension.lean]: Yes to be honest I'm not entirely sure what the correct thing is here. My intuition is also that this should be the definition of map but I didn't want to break anything by changing that definition

File: Mathlib/Topology/KrullDimension.lean (hunk 10 above)
Comment (Raph-DG) [reply Mathlib/Topology/KrullDimension.lean]: Very slick, thanks :)

File: Mathlib/Topology/KrullDimension.lean (hunk 11 above)
Comment (Raph-DG) [reply Mathlib/Topology/KrullDimension.lean]: Yeah I think I agree, I'll change it to the other way

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 4 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/Properties.lean]: I've changed it around a little bit so that this lemma is a special case of the analogous lemma where IsOpenImmersion is replaced with IsOpenEmbedding. However, I think the lemma you were intending I change this to was something along the lines of `Order.coheight (map' f hf Z) = Order.coheight Z` for some irreducible closed set `Z`, then to express things in terms of this lemma. Writing this lemma wasn't too bad, but writing things in terms of it proved to be more difficult than I expected, so for right now I've just left it with this more minimal change

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 12]
```diff
@@ -301,4 +304,38 @@ instance [IsIntegral X] : OrderTop X where
...
 
+open IrreducibleCloseds Set in
+@[stacks 02I4]
+lemma coheight_eq_of_isOpenImmersion {U X : Scheme} {x : U} (f : U ⟶ X)
+    [IsOpenImmersion f] : Order.coheight (f.base x) = Order.coheight x :=
+  coheight_eq_of_isOpenEmbedding f.base (Scheme.Hom.continuous f) f.isOpenEmbedding
+
+open Order in
+lemma ideal_height_eq_coheight (R : CommRingCat) (x : Spec R) :
+  x.asIdeal.height = coheight x := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
lemma ideal_height_eq_coheight (R : CommRingCat) (x : Spec R) :
    x.asIdeal.height = coheight x := by
```
As I said before, indentation should follow https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems. Please also fix in the other places in this PR.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 13]
```diff
@@ -301,4 +304,38 @@ instance [IsIntegral X] : OrderTop X where
...
+  rw[Ideal.height_eq_primeHeight x.asIdeal, Ideal.primeHeight]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
  rw [Ideal.height_eq_primeHeight x.asIdeal, Ideal.primeHeight]
```

File: Mathlib/Topology/KrullDimension.lean [hunk 14]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+
+/--
+Given `f : U → X` a continuous open embedding, the irreducble closeds of `U` are order isomorphic
+to the irreducible closeds of `X` nontrivially intersecting the range of `f`.
+-/
+noncomputable
+def closureImageOrderIso (h2 : IsOpenEmbedding f) :
+  IrreducibleCloseds U ≃o {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅} where
+    toFun := closureImage f h
+    invFun := comap f h h2
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
def closureImageOrderIso (h2 : IsOpenEmbedding f) :
    IrreducibleCloseds U ≃o {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅} where
  toFun := closureImage f h
  invFun := comap f h h2
```
(and fix accordingly below)

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Properties.lean]: Yes, I would like to see a lemma `Order.coheight (closureImage f hf Z) = Order.coheight Z`.

File: Mathlib/Topology/KrullDimension.lean (hunk 9 above)
Comment (chrisflav) [reply Mathlib/Topology/KrullDimension.lean]: You could see what breaks by replacing `map` with your `closureImage`.

File: Mathlib/Topology/KrullDimension.lean [hunk 15]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+-/
+lemma closureImage_mono {U X : Type*} [TopologicalSpace X] [TopologicalSpace U]
+  (f : U → X) (h2 : Continuous f) :
+  Monotone <| closureImage f h2 := fun _ _ s ↦ closure_mono (image_mono s)
+
+/--
+The map taking an irreducible closed set `T` to `closure (f '' T)` is left inverse to the preimage
+when `f` is an open embedding
+-/
+lemma closureImage_comap_leftInverse (h2 : IsOpenEmbedding f) :
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
lemma leftInverse_closureImage_comap (h2 : IsOpenEmbedding f) :
```

File: Mathlib/Topology/KrullDimension.lean [hunk 16]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+  suffices V.1.1 ⊆ closure (f '' (f ⁻¹' V.1.1)) from this
+  convert lem
+  exact image_preimage_eq_inter_range
+
+
+/--
+The map taking an irreducible closed set `T` to `closure (f '' T)` is right inverse to the preimage
+when `f` is an open embedding
+-/
+lemma closureImage_comap_rightInverse (h2 : IsOpenEmbedding f) :
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
lemma rightInverse_closureImage_comap (h2 : IsOpenEmbedding f) :
```

File: Mathlib/Topology/KrullDimension.lean [hunk 17]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+  val.is_irreducible' := T.is_irreducible'.image f (Continuous.continuousOn h) |>.closure
+  val.is_closed' := isClosed_closure
+  property := nonempty_iff_ne_empty.mp
+    (Nonempty.mono (closure_subset_preimage_closure_image h (s := T))
+    (closure_nonempty_iff.mpr T.2.nonempty))
+
+/--
+Map induced by the preimage under a continuous closed embedding on irreducible closed subsets.
+-/
+def comap (h2 : IsOpenEmbedding f) (V : {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅}) :
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
/--
(Implementation) Map induced by the preimage under a continuous closed embedding on irreducible closed subsets.
-/
def comap (h2 : IsOpenEmbedding f) (V : {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅}) :
```
These definitions should be in the `IsOpenEmbedding` namespace.

File: Mathlib/Topology/KrullDimension.lean [hunk 18]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+      exact h2.2.1
+    · rw [IsClosed.closure_eq V.3]
+      rfl
+  · apply le_trans subset_closure (closure_subset_preimage_closure_image h)
+
+/--
+The map taking an irreducible closed set `T` to `closure (f '' T)` is injective when `f` is an
+open embedding
+-/
+lemma closureImage_injective_of_openEmbedding (h2 : IsOpenEmbedding f) :
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
lemma closureImage_injective_of_isOpenEmbedding (h2 : IsOpenEmbedding f) :
```
If you move them to the `IsOpenEmbedding` namespace, you don't need this anymore, but for future reference: we don't drop the `is`.

File: Mathlib/Topology/Sober.lean [hunk 19]
```diff
@@ -6,6 +6,8 @@ Authors: Andrew Yang
 import Mathlib.Topology.Sets.Closeds
 import Mathlib.Topology.Sets.OpenCover
 import Mathlib.Algebra.HierarchyDesign
+import Mathlib.Order.KrullDimension
+import Mathlib.Topology.KrullDimension
```
Comment (chrisflav) [inline Mathlib/Topology/Sober.lean]: I don't think this is a reasonable import order. What is the effect if you import `Topology.Sober` in `Topology.KrullDimension` instead? Maybe we will need a new file under a new directory `Topology/KrullDimension`.

File: Mathlib/Topology/KrullDimension.lean [hunk 20]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+lemma closureImage_strictMono_of_openEmbedding (h2 : IsOpenEmbedding f) :
+  StrictMono <| closureImage f h := Monotone.strictMono_of_injective
+   (closureImage_mono f h) (closureImage_injective_of_openEmbedding f h h2)
+
+/--
+Given `f : U → X` a continuous open embedding, the irreducble closeds of `U` are order isomorphic
+to the irreducible closeds of `X` nontrivially intersecting the range of `f`.
+-/
+noncomputable
+def closureImageOrderIso (h2 : IsOpenEmbedding f) :
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: This is currently taking a `Continuous f` and a `IsOpenEmbedding f` assumption. But `IsOpenEmbedding` implies `Continuous`, so please get rid of the former.

File: Mathlib/Topology/KrullDimension.lean [hunk 21]
```diff
@@ -62,3 +62,138 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+
+namespace IrreducibleCloseds
+
+variable {U X : Type*} [TopologicalSpace X] [TopologicalSpace U] (f : U → X) (h : Continuous f)
+
+/--
+Alternate definition of `map` not requiring the map to be closed, instead taking the closure of the
+image.
+-/
+def closureImage (T : IrreducibleCloseds U) : {V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅} where
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: This should not take values in `{V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅}` but just in `IrreducibleCloseds X`. Then you can have a lemma that says the preimage of `closureImage T` under `f` is non-empty. Generally, working with subtypes is annoying and I think in almost all cases you want a term of `IrreducibleCloseds X` and not of the subtype.

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Properties.lean]: This gives you a start:
```
@[simp]
lemma coe_irreducibleEquivPoints_symm_apply [QuasiSober α] [T0Space α] (x : α) :
    (irreducibleSetEquivPoints.symm x : Set α) = closure {x} := rfl

open TopologicalSpace Topology Order Set IrreducibleCloseds

-- Your current `closureImage` should be replaced by this.
@[simps]
def closureImage' {U X : Type*} [TopologicalSpace U]
    [TopologicalSpace X] {f : U → X} (hf : Continuous f)
    (T : IrreducibleCloseds U) : IrreducibleCloseds X where
  carrier := closure (f '' T)
  is_irreducible' := T.isIrreducible.image f hf.continuousOn |>.closure
  is_closed' := isClosed_closure

@[simp]
lemma coe_closureImageOrderIso {U X : Type*} [TopologicalSpace U]
    [TopologicalSpace X] {f : U → X} (hf : IsOpenEmbedding f) (Z) :
    (closureImageOrderIso f hf.continuous hf Z : IrreducibleCloseds X) =
      closureImage' hf.continuous Z :=
  rfl

lemma coheight_closureImage'_of_isOpenEmbedding {U X : Type*} [TopologicalSpace U]
    [TopologicalSpace X] {f : U → X} (hf : IsOpenEmbedding f)
    (Z : TopologicalSpace.IrreducibleCloseds U) :
    Order.coheight (closureImage' hf.continuous Z) = Order.coheight Z := by
  rw [← coheight_orderIso (closureImageOrderIso f hf.continuous hf) Z]
  -- here you need some argument, that should be a simplified version of your current argument, because you
  -- don't need to translate between irreducible closeds and points anymore
  sorry

lemma coheight_eq_of_isOpenEmbedding {U X : Type*} [TopologicalSpace U] [TopologicalSpace X]
    [QuasiSober X] [T0Space X] [QuasiSober U] [T0Space U]
    {x : U} (f : U → X) (hf : Continuous f) (hf' : IsOpenEmbedding f) :
    coheight (f x) = coheight x := by
  rw [← coheight_orderIso (irreducibleSetEquivPoints (α := X)).symm (f x),
    ← coheight_orderIso (irreducibleSetEquivPoints (α := U)).symm x,
    ← coheight_closureImage'_of_isOpenEmbedding hf']
  congr
  ext : 1
  simp [closure_image_closure hf]
```

File: Mathlib/Topology/KrullDimension.lean [hunk 22]
```diff
@@ -62,3 +62,168 @@ theorem IsHomeomorph.topologicalKrullDim_eq (f : X → Y) (h : IsHomeomorph f) :
...
+
+variable {U X : Type*} [TopologicalSpace X] [TopologicalSpace U] (f : U → X)
+
+
+--{V : IrreducibleCloseds X | f ⁻¹' V ≠ ∅}
+/--
+Alternate definition of `map` not requiring the map to be closed, instead taking the closure of the
+image.
+-/
+def closureImage (h : Continuous f) (T : IrreducibleCloseds U) : IrreducibleCloseds X where
```
Comment (erdOne) [inline Mathlib/Topology/KrullDimension.lean]: Note that this is now `IrreducibleCloseds.map`.

File: Mathlib/Topology/Sober.lean (hunk 19 above)
Comment (Raph-DG) [reply Mathlib/Topology/Sober.lean]: This seems to speed things up a bit which is nice! That said, it seems like the changes to imports I've made are still slowing things down by 13.94% in Topology.Sober, which seems bad. Is this a concern?

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 23]
```diff
@@ -3,12 +3,14 @@ Copyright (c) 2021 Andrew Yang. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Andrew Yang
 -/
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
```

File: Mathlib/Topology/Sober.lean [hunk 24]
```diff
@@ -7,6 +7,8 @@ module
 
 public import Mathlib.Topology.Sets.Closeds
 public import Mathlib.Topology.Sets.OpenCover
+public import Mathlib.Algebra.HierarchyDesign
```
Comment (erdOne) [inline Mathlib/Topology/Sober.lean]: This seems to be a weird import to add. This file contains nothing but comments

File: Mathlib/Topology/Sober.lean [hunk 25]
```diff
@@ -174,6 +176,60 @@ noncomputable def irreducibleSetEquivPoints [QuasiSober α] [T0Space α] :
...
+open TopologicalSpace Topology Order Set IrreducibleCloseds
+
+@[simp]
+lemma coe_mapOrderIso {U X : Type*} [TopologicalSpace U]
+    [TopologicalSpace X] {f : U → X} (hf : IsOpenEmbedding f) (Z) :
+    (mapOrderIso f hf Z : IrreducibleCloseds X) =
+      map f hf.continuous Z :=
+  rfl
+
+lemma Topology.IsOpenEmbedding.coheight_map {U X : Type*} [TopologicalSpace U]
```
Comment (erdOne) [inline Mathlib/Topology/Sober.lean]: These shouldn't be here.

File: Mathlib/Topology/Sober.lean [hunk 26]
```diff
@@ -174,6 +176,60 @@ noncomputable def irreducibleSetEquivPoints [QuasiSober α] [T0Space α] :
...
+      step := p.step
+    }
+    exact ⟨p', SetCoe.ext hp, rfl⟩
+  exact (coheight_eq_of_strictMono g (fun _ _ a ↦ a)
+     ((mapOrderIso f hf) Z) this).symm
+
+
+lemma Topology.IsOpenEmbedding.coheight_eq {U X : Type*} [TopologicalSpace U] [TopologicalSpace X]
+    [QuasiSober X] [T0Space X] [QuasiSober U] [T0Space U]
+    {x : U} (f : U → X) (hf : Continuous f) (hf' : IsOpenEmbedding f) :
```
Comment (erdOne) [inline Mathlib/Topology/Sober.lean]: I think Christian's suggestion is to move this to `Topology/KrullDimension` as well.

File: Mathlib/Topology/Sober.lean (hunk 24 above)
Comment (Raph-DG) [reply Mathlib/Topology/Sober.lean]: Haha, interesting, thanks for catching that! I guess this must've been from min_imports

File: Mathlib/Topology/Sober.lean (hunk 26 above)
Comment (Raph-DG) [reply Mathlib/Topology/Sober.lean]: Ah ok gotcha, can do

File: Mathlib/Topology/Sober.lean [hunk 27]
```diff
@@ -7,6 +7,7 @@ module
 
 public import Mathlib.Topology.Sets.Closeds
 public import Mathlib.Topology.Sets.OpenCover
+public import Mathlib.Order.KrullDimension
```
Comment (tb65536) [inline Mathlib/Topology/Sober.lean]: This is a bit strange, to be adding an import to an otherwise unmodified file?

Comment (Raph-DG) [reply Mathlib/Topology/Sober.lean]: Hmm, yeah you're right, that does seem a bit strange haha. Thanks for noticing!

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 28]
```diff
@@ -341,6 +342,40 @@ instance [IsIntegral X] : OrderTop X where
   top := genericPoint X
   le_top a := genericPoint_specializes a
 
+open IrreducibleCloseds Set in
+@[stacks 02I4]
+lemma coheight_eq_of_isOpenImmersion {U X : Scheme} {x : U} (f : U ⟶ X)
+    [IsOpenImmersion f] : Order.coheight (f.base x) = Order.coheight x :=
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
    [IsOpenImmersion f] : Order.coheight (f x) = Order.coheight x :=
```
Do we really need this? I think `f.isOpenEmbedding.coheight_eq` is even shorter than this.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 29]
```diff
@@ -341,6 +342,40 @@ instance [IsIntegral X] : OrderTop X where
...
+  f.isOpenEmbedding.coheight_eq
+
+open Order in
+lemma ideal_height_eq_coheight (R : CommRingCat) (x : Spec R) :
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
lemma hight_asIdeal_eq_coheight (R : CommRingCat) (x : Spec R) :
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 30]
```diff
@@ -504,6 +504,105 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
     StrictMono (map f hf.continuous) :=
   Monotone.strictMono_of_injective (map_mono hf.continuous) (map_injective_of_isInducing hf)
 
+lemma map_preimage_nonemtpy (f : β → α) (h : Continuous f) (T : IrreducibleCloseds β) :
```
Comment (erdOne) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
lemma nonempty_preimage_map (f : β → α) (h : Continuous f) (T : IrreducibleCloseds β) :
```

File: Mathlib/Topology/Sets/Closeds.lean [hunk 31]
```diff
@@ -504,6 +504,105 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
...
+def comapSubtype (f : β → α) (h : IsOpenEmbedding f)
+    (V : {V : IrreducibleCloseds α | (f ⁻¹' V).Nonempty}) :=
+  comap f h V.1 V.2
+
+/--
+The map taking an irreducible closed set `T` to `closure (f '' T)` is left inverse to the preimage
+when `f` is an open embedding
+-/
+lemma map_comap_leftInverse (f : β → α) (h : IsOpenEmbedding f) :
+    Function.LeftInverse (mapSubtype f h.continuous) (comapSubtype f h) := by
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/Closeds.lean]: Do these two lemmas help?
```
lemma IsPreirreducible.closure_image_preimage (f : β → α) (h : IsOpenMap f) (s : Set α)
    (hne : (f ⁻¹' s).Nonempty) (hs : IsPreirreducible s) (hs' : IsClosed s) :
    closure (f '' (f ⁻¹' s)) = s := by
  refine subset_antisymm (closure_minimal (by simp) hs') ?_
  refine subset_trans (subset_closure_inter_of_isPreirreducible_of_isOpen hs h.isOpen_range ?_) ?_
  · exact Set.nonempty_of_nonempty_preimage (f := f) (by simpa)
  · gcongr
    grind

lemma IsOpenMap.preimage_closure_image (f : β → α) (h₁ : IsOpenMap f)
    (h₂ : Function.Injective f) (h₃ : Continuous f) (s : Set β)
    (hs' : IsClosed s) :
    f ⁻¹' closure (f '' s) = s := by
  rw [h₁.preimage_closure_eq_closure_preimage h₃, Set.preimage_image_eq _ h₂, hs'.closure_eq]
```
I think these two lemmas should let you prove the two directions rather easily. If this is indeed the case, then I would suggest to remove all three auxiliary definitions `comap`, `mapSubtype` and `comapSubtype` and inline everything in `mapOrderIso`. I would assume that the final `mapOrderIso` would not be much longer than it is right now and it would save us auxiliary definitions that won't be used anywhere else.

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Properties.lean]: I don't think this comment was addressed, it looks as if nothing changed.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 32]
```diff
@@ -341,6 +342,40 @@ instance [IsIntegral X] : OrderTop X where
...
+    x.asIdeal.height = coheight x := by
+  rw [Ideal.height_eq_primeHeight x.asIdeal, Ideal.primeHeight]
+  congr
+  ext
+  simp only [PrimeSpectrum.instPartialOrder, PartialOrder.lift, PrimeSpectrum.le_iff_specializes]
+  exact Eq.to_iff rfl
+
+open Order in
+@[stacks 02IZ]
+lemma stalk_dim_eq_coheight {X : Scheme} (x : X) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
lemma ringKrullDim_stalk_eq_coheight {X : Scheme} (x : X) :
```

File: Mathlib/Order/KrullDimension.lean [hunk 33]
```diff
@@ -323,6 +323,30 @@ lemma coheight_le_coheight_apply_of_strictMono (f : α → β) (hf : StrictMono
   apply height_le_height_apply_of_strictMono (α := αᵒᵈ)
   exact fun _ _ h ↦ hf h
 
+lemma height_eq_of_strictMono (f : α → β) (hf : StrictMono f) (a : α)
+    (h : ∀ p : LTSeries β, p.last = f a → ∃ p' :
+    LTSeries α, p'.last = a ∧ p = p'.map f hf) : height a = height (f a) := by
+  apply le_antisymm <|
+    Order.height_le_height_apply_of_strictMono _ hf _
+  refine height_le_iff'.mpr (fun p hp ↦ ?_)
+  choose p' hp' using (h p hp)
```
Comment (chrisflav) [inline Mathlib/Order/KrullDimension.lean]:
```suggestion
  obtain ⟨p', hp'⟩ := h p hp
```
I think we prefer `obtain` when `choose` is not needed.

File: Mathlib/Order/KrullDimension.lean [hunk 34]
```diff
@@ -323,6 +323,30 @@ lemma coheight_le_coheight_apply_of_strictMono (f : α → β) (hf : StrictMono
...
+  exact hp'.2 ▸ LTSeries.map_length p' f hf ▸
+        (Order.height_eq_iSup_last_eq a) ▸
+        (ciSup_pos hp'.1 : (⨆ (_ : RelSeries.last p' = a), p'.length : ℕ∞) = p'.length) ▸
+        le_iSup (α := ℕ∞) (fun p ↦ ⨆ (_ : RelSeries.last p = a), p.length) p'
```
Comment (chrisflav) [inline Mathlib/Order/KrullDimension.lean]: Could you please avoid the repeated `▸`s? They are fine for simple term mode golfs, but repeated `▸`s are brittle so we prefer `rw`.

Comment (Raph-DG) [reply Mathlib/Order/KrullDimension.lean]: Sure, that makes sense, happy to avoid them/remove the ones that are there. Thanks for the tip :)

File: Mathlib/Topology/Sets/Closeds.lean (hunk 31 above)
Comment (Raph-DG) [reply Mathlib/Topology/Sets/Closeds.lean]: Thanks, yes I agree it would be cleaner to do away with these auxiliary definitions. I'll try using your lemmas to clean things up a bit

File: Mathlib/AlgebraicGeometry/Properties.lean (hunk 7 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/Properties.lean]: Ah thanks for noticing that, I've just made a change

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 35]
```diff
@@ -341,6 +342,44 @@ instance [IsIntegral X] : OrderTop X where
...
+lemma ideal_height_eq_coheight (R : CommRingCat) (x : Spec R) :
+    x.asIdeal.height = coheight x := by
+  rw [Ideal.height_eq_primeHeight x.asIdeal, Ideal.primeHeight]
+  congr
+  exact primeSpectrum_preorder_eq_orderDual_spec_preorder R
+
+open Order in
+@[stacks 02IZ]
+lemma ringKrullDim_stalk_eq_coheight {X : Scheme} (x : X) :
+  ringKrullDim (X.presheaf.stalk x) = Order.coheight x := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
    ringKrullDim (X.presheaf.stalk x) = Order.coheight x := by
```

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 36]
```diff
@@ -341,6 +342,44 @@ instance [IsIntegral X] : OrderTop X where
...
   le_top a := genericPoint_specializes a
 
+open IrreducibleCloseds Set in
+@[stacks 02I4]
+lemma coheight_eq_of_isOpenImmersion {U X : Scheme} {x : U} (f : U ⟶ X)
+    [IsOpenImmersion f] : Order.coheight (f.base x) = Order.coheight x :=
+  f.isOpenEmbedding.coheight_eq
+
+lemma primeSpectrum_preorder_eq_orderDual_spec_preorder (R : CommRingCat) :
+    PrimeSpectrum.instPartialOrder.toPreorder = OrderDual.instPreorder ↥(Spec R) := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]: This should go in an earlier file, probably right after the specialization order instance on `Scheme`s.

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 37]
```diff
@@ -341,6 +342,44 @@ instance [IsIntegral X] : OrderTop X where
...
+  ext
+  simp only [PrimeSpectrum.instPartialOrder, PartialOrder.lift, PrimeSpectrum.le_iff_specializes]
+  exact Eq.to_iff rfl
+
+open Order in
+lemma ideal_height_eq_coheight (R : CommRingCat) (x : Spec R) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
lemma idealHeight_eq_coheight (R : CommRingCat) (x : Spec R) :
```
See the last paragraph in https://leanprover-community.github.io/contribute/naming.html#identifiers-and-theorem-names.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 38]
```diff
@@ -504,6 +504,66 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
     StrictMono (map f hf.continuous) :=
   Monotone.strictMono_of_injective (map_mono hf.continuous) (map_injective_of_isInducing hf)
 
+lemma map_preimage_nonemtpy (f : β → α) (h : Continuous f) (T : IrreducibleCloseds β) :
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/Closeds.lean]: Could you please state this for `(t : Set _) (ht : IsIrreducible t) (ht' : IsClosed t)` instead? Then this, and the following lemmas could probably go to an earlier file about irreducibility.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 39]
```diff
@@ -504,6 +504,66 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
...
+    (hs' : IsClosed s) :
+    f ⁻¹' closure (f '' s) = s := by
+  rw [h₁.preimage_closure_eq_closure_preimage h₃, Set.preimage_image_eq _ h₂, hs'.closure_eq]
+
+/--
+Given `f : U → X` a continuous open embedding, the irreducble closeds of `U` are order isomorphic
+to the irreducible closeds of `X` nontrivially intersecting the range of `f`.
+-/
+noncomputable
+def mapOrderIso (f : β → α) (h : IsOpenEmbedding f) :
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/Closeds.lean]: This should have `IsOpenEmbedding` somewhere in the name. For example this could be `Topology.IsOpenEmbedding.irreducibleClosedsOrderIso`. Or
`TopologicalSpace.IrreducibleCloseds.orderIsoOfIsOpenEmbedding`.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 40]
```diff
@@ -504,6 +504,66 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
...
+    constructor
+    · intro c
+      have eq : f ⁻¹' closure (f '' a.carrier) ≤ f ⁻¹' closure (f '' b.carrier) := fun _ b ↦ c b
+      have (z : IrreducibleCloseds β) : z.carrier = f ⁻¹' (closure (f '' z.carrier)) := by
+        suffices closure z.carrier = f ⁻¹' (closure (f '' z.carrier)) by
+          nth_rewrite 1 [← IsClosed.closure_eq z.3]
+          exact this
+        exact Topology.IsEmbedding.closure_eq_preimage_closure_image h.isEmbedding z
+      rwa [← this a, ← this b] at eq
+    · exact fun c ↦ (map_mono h.continuous) c
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/Closeds.lean]:
```suggestion
  toFun T := ⟨map f h.continuous T, map_preimage_nonemtpy f h.continuous T⟩
  invFun V :=
    { carrier := f ⁻¹' V
      isIrreducible' := ⟨V.2, V.1.2.isPreirreducible.preimage h⟩
      isClosed' := V.1.3.preimage h.continuous }
  left_inv V := by
    ext
    simp [IsOpenMap.preimage_closure_image f h.isOpenMap h.injective h.continuous _ V.isClosed]
  right_inv V := by
    ext
    simp [IsPreirreducible.closure_image_preimage f h.isOpenMap V V.2 V.1.2.2 V.1.3]
  map_rel_iff' {a b} := by
    refine ⟨fun hle ↦ ?_, fun hle ↦ map_mono h.continuous hle⟩
    simpa [← h.isEmbedding.closure_eq_preimage_closure_image, a.isClosed.closure_eq,
      b.isClosed.closure_eq] using Set.preimage_mono (f := f) hle
```

File: Mathlib/Topology/KrullDimension.lean [hunk 41]
```diff
@@ -72,3 +73,52 @@ theorem topologicalKrullDim_zero_of_discreteTopology
...
+          suffices  ¬ f ⁻¹' a = ∅ by
+            rw[← Ne, ← nonempty_iff_ne_empty] at this
+            exact Nonempty.mono (fun _ b ↦ (hp ▸ LTSeries.head_le p i) b) this
+          exact nonempty_iff_ne_empty.mp a.2
+      }
+      step := p.step
+    }
+    exact ⟨p', SetCoe.ext hp, rfl⟩
+  exact (coheight_eq_of_strictMono g (fun _ _ a ↦ a)
+     ((mapOrderIso f hf) Z) this).symm
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]:
```suggestion
  refine .symm (coheight_eq_of_strictMono' Subtype.val (Subtype.strictMono_coe _) ?_ _)
  intro a b hlt
  exact ⟨⟨b, a.2.mono (Set.preimage_mono hlt.le)⟩, hlt, rfl⟩
```
If you add
```lean4
lemma coheight_eq_of_strictMono' (f : α → β) (hf : StrictMono f)
    (h : ∀ a : α, ∀ b : β, f a < b → ∃ (a' : α), a < a' ∧ f a' = b) (a : α) :
    coheight a = coheight (f a) := by
  refine le_antisymm (Order.coheight_le_coheight_apply_of_strictMono _ hf _) ?_
  refine coheight_le_iff'.mpr fun p hp ↦ ?_
  induction p using RelSeries.inductionOn generalizing a with
  | singleton x => simp
  | cons p x hx ih =>
    simp only [RelSeries.head_cons] at hp
    obtain ⟨a', haa', ha'⟩ := h a p.head (by grind)
    grw [RelSeries.cons_length, Nat.cast_add, Nat.cast_one, ih a' ha'.symm]
    exact coheight_add_one_le haa'
```
I think this is in practice the better lemma than your `coheight_eq_of_strictMono` (which has slightly weaker assumptions). The condition is exactly "going-up", which probably has some order theoretic name that I don't know. I would suggest to replace your `coheight_eq_of_strictMono` lemma by this version.

Comment (Raph-DG) [reply Mathlib/Topology/KrullDimension.lean]: Thanks for all the nice comments! Yes I agree this is nicer and probably the more useful lemma for applications. Do you think it's still work keeping the other lemma around, or do you think its applications are too fringe for it to be in mathlib? Right now I have kept both lemmas, but I'm happy to remove the original one if people don't think it will be used

Comment (chrisflav) [reply Mathlib/Topology/KrullDimension.lean]: I would suggest to remove the old one. Please also make the same change to the `height` variant (you should be able to prove the `height` version by applying the `coheight` version in [OrderDual](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/OrderDual.html#OrderDual)).

File: Mathlib/Topology/KrullDimension.lean [hunk 42]
```diff
@@ -72,3 +73,33 @@ theorem topologicalKrullDim_zero_of_discreteTopology
...
+  rw [← coheight_orderIso (orderIsoOfIsOpenEmbedding f hf) Z]
+  refine .symm (coheight_eq_of_strictMono Subtype.val (Subtype.strictMono_coe _) ?_ _)
+  intro a b hlt
+  exact ⟨⟨b, a.2.mono (Set.preimage_mono hlt.le)⟩, hlt, rfl⟩
+
+attribute [local instance] specializationOrder
+
+@[simp]
+lemma coe_irreducibleEquivPoints_symm_apply [QuasiSober α] [T0Space α] (x : α) :
+    (irreducibleSetEquivPoints.symm x : Set α) = closure {x} := rfl
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: This lemma should not be here, could you please move it close to `irreducibleSetEquivPoints`?

File: Mathlib/Topology/KrullDimension.lean [hunk 43]
```diff
@@ -72,3 +73,33 @@ theorem topologicalKrullDim_zero_of_discreteTopology
   refine krullDim_nonpos_iff_forall_isMax.mpr fun Z Y h ↦ (h.antisymm' fun x hx ↦ ?_).le
   obtain ⟨z, hz⟩ := Z.2.nonempty
   rwa [DiscreteTopology.isDiscrete.subsingleton_of_isPreirreducible Y.2.isPreirreducible hx (h hz)]
+
+variable {α : Type*} [TopologicalSpace α]
+
+open TopologicalSpace Topology Order Set IrreducibleCloseds
+
+lemma Topology.IsOpenEmbedding.coheight_map {U X : Type*} [TopologicalSpace U]
+    [TopologicalSpace X] {f : U → X} (hf : IsOpenEmbedding f)
```
Comment (chrisflav) [inline Mathlib/Topology/KrullDimension.lean]: Could you please check if you can re-use some section variables? There is at least already an `X` in scope.

File: Mathlib/Topology/Sets/Closeds.lean [hunk 44]
```diff
@@ -504,6 +504,44 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
...
+  refine subset_antisymm (closure_minimal (by simp) hs') ?_
+  refine subset_trans (subset_closure_inter_of_isPreirreducible_of_isOpen hs h.isOpen_range ?_) ?_
+  · exact Set.nonempty_of_nonempty_preimage (f := f) (by simpa)
+  · gcongr
+    grind
+
+lemma IsOpenMap.preimage_closure_image (f : β → α) (h₁ : IsOpenMap f)
+    (h₂ : Function.Injective f) (h₃ : Continuous f) (s : Set β)
+    (hs' : IsClosed s) :
+    f ⁻¹' closure (f '' s) = s := by
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/Closeds.lean]: Could you please move this close to [IsOpenMap.preimage_closure_eq_closure_preimage](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Maps/Basic.html#IsOpenMap.preimage_closure_eq_closure_preimage)?

File: Mathlib/Topology/Sets/Closeds.lean [hunk 45]
```diff
@@ -504,6 +504,44 @@ lemma map_strictMono_of_isInducing {f : β → α} (hf : IsInducing f) :
     StrictMono (map f hf.continuous) :=
   Monotone.strictMono_of_injective (map_mono hf.continuous) (map_injective_of_isInducing hf)
 
+lemma IsPreirreducible.closure_image_preimage (f : β → α) (h : IsOpenMap f) (s : Set α)
+    (hne : (f ⁻¹' s).Nonempty) (hs : IsPreirreducible s) (hs' : IsClosed s) :
+    closure (f '' (f ⁻¹' s)) = s := by
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/Closeds.lean]: This lemma could probably also moved to some earlier file. What does `#find_home!` report?

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 46]
```diff
@@ -553,6 +553,12 @@ lemma Spec.map_inv {R S : CommRingCat} (f : R ⟶ S) [IsIso f] :
   change Scheme.Spec.map (inv f).op = inv (Scheme.Spec.map f.op)
   rw [op_inv, ← Scheme.Spec.map_inv]
 
+lemma primeSpectrum_preorder_eq_orderDual_spec_preorder (R : CommRingCat) :
+    PrimeSpectrum.instPartialOrder.toPreorder = OrderDual.instPreorder ↥(Spec R) := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean]: The applied form of this would probably be more useful, i.e. an `iff` lemma comparing the `<` relations.

File: Mathlib/Topology/Sets/Closeds.lean (hunk 45 above)
Comment (Raph-DG) [reply Mathlib/Topology/Sets/Closeds.lean]: Good point, I've just moved it to Mathlib.Topology.Irreducible which I think is a more sensible place for it

File: Mathlib/AlgebraicGeometry/Scheme.lean (hunk 46 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/Scheme.lean]: Did you mean to say the `<` relations here? I just implemented this change without reading this carefully but implemented the lemma comparing the `\leq` relations. Would be happy to reimplement just wanted to check that's what you meant before going ahead with that

File: Mathlib/Order/KrullDimension.lean [hunk 47]
```diff
@@ -326,6 +326,25 @@ lemma coheight_le_coheight_apply_of_strictMono (f : α → β) (hf : StrictMono
...
+    simp only [RelSeries.head_cons] at hp
+    obtain ⟨a', haa', ha'⟩ := h a p.head (by grind)
+    grw [RelSeries.cons_length, Nat.cast_add, Nat.cast_one, ih a' ha'.symm]
+    exact coheight_add_one_le haa'
+
+lemma height_eq_of_strictMono (f : α → β) (hf : StrictMono f)
+    (h : ∀ a : α, ∀ b : β, b < f a → ∃ (a' : α), a' < a ∧ f a' = b) (a : α) :
+    height a = height (f a) := coheight_eq_of_strictMono (α := αᵒᵈ) (β := βᵒᵈ)
+  (f := OrderDual.toDual ∘ f ∘ OrderDual.toDual)
+  (strictMono_dual_iff.mp hf) (fun a b hab ↦ h a b hab) _
```
Comment (chrisflav) [inline Mathlib/Order/KrullDimension.lean]: Could you please prove this using something like [Order.coheight_toDual](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/KrullDimension.html#Order.coheight_toDual)? This would not abuse the def-eq of `OrderDual`.

File: Mathlib/Topology/Irreducible.lean [hunk 48]
```diff
@@ -454,6 +454,15 @@ lemma preimage_mem_irreducibleComponents (ht : t ∈ irreducibleComponents X) {f
   refine preimage_mem_irreducibleComponents_of_isPreirreducible_fiber ht hf.continuous hf.isOpenMap
     (fun _ ↦ (subsingleton_singleton.preimage hf.injective).isPreirreducible) h
 
+lemma closure_image_preimage_of_preIrreducible (f : Y → X) (h : IsOpenMap f) (s : Set X)
```
Comment (chrisflav) [inline Mathlib/Topology/Irreducible.lean]:
```suggestion
lemma closure_image_preimage_of_isPreirreducible (f : Y → X) (h : IsOpenMap f) (s : Set X)
```

File: Mathlib/Topology/Continuous.lean [hunk 49]
```diff
@@ -222,6 +222,10 @@ theorem closure_subset_preimage_closure_image (h : Continuous f) :
     closure s ⊆ f ⁻¹' closure (f '' s) :=
   (mapsTo_image _ _).closure h
 
+lemma preimage_closure_image_nonempty (h : Continuous f) (t : Set X) (ht : t.Nonempty) :
```
Comment (chrisflav) [inline Mathlib/Topology/Continuous.lean]:
```suggestion
lemma nonempty_preimage_closure_image (h : Continuous f) (t : Set X) (ht : t.Nonempty) :
```

File: Mathlib/Topology/Maps/Basic.lean [hunk 50]
```diff
@@ -427,6 +427,10 @@ theorem preimage_closure_eq_closure_preimage (hf : IsOpenMap f) (hfc : Continuou
     f ⁻¹' closure s = closure (f ⁻¹' s) :=
   hf.preimage_closure_subset_closure_preimage.antisymm (hfc.closure_preimage_subset s)
 
+lemma preimage_closure_image_eq_id (h₁ : IsOpenMap f) (h₂ : Function.Injective f)
```
Comment (chrisflav) [inline Mathlib/Topology/Maps/Basic.lean]:
```suggestion
lemma preimage_closure_image (h₁ : IsOpenMap f) (h₂ : Function.Injective f)
```

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 51]
```diff
@@ -342,6 +343,38 @@ instance [IsIntegral X] : OrderTop X where
...
+    Order.coheight (f.base x) = Order.coheight x := f.isOpenEmbedding.coheight_eq
+
+open Order in
+lemma idealHeight_eq_coheight (R : CommRingCat) (x : Spec R) :
+    x.asIdeal.height = coheight x := by
+  rw [Ideal.height_eq_primeHeight x.asIdeal, Ideal.primeHeight]
+  congr
+  ext a b
+  exact le_primeSpectrum_iff_le_spec R a b
+
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean:358]:
```suggestion
open Order in
lemma idealHeight_eq_coheight (R : CommRingCat) (x : Spec R) :
    x.asIdeal.height = coheight x := by
  rw [Ideal.height_eq_primeHeight x.asIdeal, Ideal.primeHeight,
    ← Order.coheight_orderIso (specOrderIsoPrimeSpectrum R), ← height_ofDual,
    specOrderIsoPrimeSpectrum_apply, OrderDual.ofDual_toDual]
  rfl

```

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 52]
```diff
@@ -558,6 +558,15 @@ lemma Spec.map_inv {R S : CommRingCat} (f : R ⟶ S) [IsIso f] :
...
 
+lemma specializes_primeSpectrum_iff_specializes_spec (R : CommRingCat) (a b : PrimeSpectrum R) :
+    a ⤳ b ↔ @Specializes (Spec R) _ a b := by rfl
+
+lemma le_primeSpectrum_iff_le_spec (R : CommRingCat) (a b : PrimeSpectrum R) :
+    a ≤ b ↔ @LE.le (Spec R) _ b a := by
+  simp [PrimeSpectrum.le_iff_specializes,
+    Scheme.le_iff_specializes (X := Spec R) (a := (b : Spec R)) (b := (a : Spec R)),
+    specializes_primeSpectrum_iff_specializes_spec]
+
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean]:
```suggestion
/-- `Spec R` with the specialization order is order isomorphic to the dual of the prime
spectrum of `R`. -/
@[simps]
def specOrderIsoPrimeSpectrum (R : CommRingCat) : Spec R ≃o (PrimeSpectrum R)ᵒᵈ where
  toFun x := .toDual x
  invFun x := OrderDual.ofDual x
  map_rel_iff' {a b} := PrimeSpectrum.le_iff_specializes b a

/-- `PrimeSpectrum R` with the inclusion order is order isomorphic to the dual of `Spec R`. -/
@[simps]
def primeSpectrumOrderIsoSpec (R : Type u) [CommRing R] : PrimeSpectrum R ≃o (Spec (.of R))ᵒᵈ where
  toFun x := .toDual x
  invFun x := OrderDual.ofDual x
  map_rel_iff' {a b} := (PrimeSpectrum.le_iff_specializes a b).symm

```

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 53]
```diff
@@ -342,6 +343,38 @@ instance [IsIntegral X] : OrderTop X where
...
+    ← Order.coheight_orderIso (specOrderIsoPrimeSpectrum R), ← height_ofDual,
+    specOrderIsoPrimeSpectrum_apply, OrderDual.ofDual_toDual]
+  rfl
+
+open Order in
+@[stacks 02IZ]
+lemma ringKrullDim_stalk_eq_coheight {X : Scheme} (x : X) :
+    ringKrullDim (X.presheaf.stalk x) = Order.coheight x := by
+  wlog h : ∃ R, X = Spec R
+  · obtain ⟨R, f, hf, hsub⟩ := AlgebraicGeometry.Scheme.exists_affine_mem_range_and_range_subset
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Properties.lean]:
```suggestion
  · obtain ⟨R, f, hf, hsub⟩ := Scheme.exists_affine_mem_range_and_range_subset
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
